US09259470B2
(R)-tert-Butyl 3-((R)-(4-chloro-3-fluorophenyl)(4-(2-(methylsulfonyl)pyrimidin-4-yl)-2-oxopyridin-1(2H)-yl)methyl)pyrrolidine-1-carboxylate (45.1 mg, 0.0801 mmol) was dissolved in DMA (1.0 mL, 0.1M) at room temperature under nitrogen and treated with tetrahydro-2H-pyran-4-amine (40.5 mg, 0.401 mmol). The solution was heated to 120° C. for 1 hour in the microwave. The reaction was then diluted with EtOAc (15 mL) and washed with water (3×15 mL) and brine (15 mL). The organics were isolated, dried over sodium sulfate, filtered and concentrated. The crude product was loaded onto an SP1 samplet and purified by silica gel chromatography using a 10% to 80% gradient of acetone in hexanes. Product containing fractions were pooled, concentrated and then redissolved in dichloromethane (2 mL) and treated with 1:1 TFA/DCM (1.0 mL) and stirred at room temperature for 1 hour. The reaction was diluted to 15 mL with additional DCM and washed with NaHCO3 (2×15 mL). The organics were isolated, dried over sodium sulfate, filtered and concentrated to afford 1-((R)-(4-chloro-3-fluorophenyl)((R)-pyrrolidin-3-yl)methyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one as an oil. 1H NMR (400 MHz, ((CD3)2SO) δ 8.40 (d, 1H), 8.04 (d, 1H), 7.62 (m, 2H), 7.37 (d, 1H), 7.34 (br s, 1H), 7.13 (d, 1H), 7.08 (s, 1H), 6.86 (d, 1H), 5.84 (br s, 1H), 3.97 (m, 1H), 3.87 (m, 2H), 3.38 (m, 2H), 2.86 (m, 1H), 2.79 (m, 2H), 2.34 (m, 1H), 1.84 (br d, 2H), 1.74 (m, 1H), 1.52 (m, 3H), 1.27 (m, 2H); LCMS (ESI) m/z 484.1 [M+H+].

reactant | (R)-tert-Butyl 3-((R)-(4-chloro-3-fluorophenyl)(4-(2-(methylsulfonyl)pyrimidin-4-yl)-2-oxopyridin-1(2H)-yl)methyl)pyrrolidine-1-carboxylate | 0.0801 mmol, 45.1 mg | ClC1=C(C=C(C=C1)[C@@H]([C@H]1CN(CC1)C(=O)OC(C)(C)C)N1C(C=C(C=C1)C1=NC(=NC=C1)S(=O)(=O)C)=O)F | C26H28ClFN4O5S
reactant | tetrahydro-2H-pyran-4-amine | 0.401 mmol, 40.5 mg | O1CCC(CC1)N | C5H11NO
solvent | DMA | 0.1M, 1.0 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | 1-((R)-(4-chloro-3-fluorophenyl)((R)-pyrrolidin-3-yl)methyl)-4-(2-((tetrahydro-2H-pyran-4-yl)amino)pyrimidin-4-yl)pyridin-2(1H)-one | ClC1=C(C=C(C=C1)[C@H](N1C(C=C(C=C1)C1=NC(=NC=C1)NC1CCOCC1)=O)[C@H]1CNCC1)F | C25H27ClFN5O2
